13
R0100 1 0 1000
R0203 2 3 1E+9
R0200 2 0 1000
R0402 4 2 10000
R0205 2 5 1E+9
R0406 4 6 12000
C0207 2 7 1E-6
G0203 2 3 8 0 -1E-6 5E-6 0 -2E-5 0 1.6E-5
G0205 2 5 9 0 -1E-6 5E-6 0 -2E-5 0 1.6E-5
E1000 10 0 2 3 1E-1
E0800 8 0 11 0 0 -7 0 56 0 -112 0 64
E1200 12 0 2 5 1E-1
E0900 9 0 13 0 0 -7 0 56 0 -112 0 64
F0602 6 2 3 1 1
F0102 1 2 5 6 1
V1110 11 10 DC 1
V0700 7 0 PULSE -0.1 0.1 0 0.25E-3 0.25E-3 0.25E-3 1E-3 1000
V1312 13 12 DC 1
V0400 4 0 DC 10
.TRAN 20E-3 20E-6 BE 1
